US05880126
211 mg of 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is mixed in 1 ml of methanol with 0.5 ml of aqueous 2N sodium hydroxide solution and held at 40° C. until the reaction is completed. Then, the reaction mixture is acidified with dilute hydrochloric acid, the precipitated yellow reaction product is suctioned off, washed with water and diethyl ether and dried in a vacuum. 150 mg of 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid is obtained.

reactant | 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 211 mg | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=C(C=C23)OCC2=CC=CC=C2)CC(=O)N(CCC2=CC=CC=C2)C)C=N1)COC | C35H37N3O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)OC=1C=C2C3=C(N(C2=CC1)CC(=O)N(CCC1=CC=CC=C1)C)C=NC(=C3COC)C(=O)O | C32H31N3O5
